data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_399397_0,[C:1]12([H:12])[N:3]([H:8])[C@:5]1([N:7]([H:10])[H:11])[C@:6]([C:2]([H:14])([H:15])[H:16])([H:13])[N:4]2[H:9]>>[C:1]1([H:12])([H:13])[N:3]([H:8])[C:5]([N:7]([H:10])[H:11])=[C:6]([C:2]([H:14])([H:15])[H:16])[N:4]1[H:9],33.355390000000824
MR_7061_1,[C:1]([C:2]([O:4]/[C:3](=[N:5]/[H:7])[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[O:4])[O:6]/[C:3](=[N:5]/[H:7])[H:8])([H:9])([H:10])[H:11],38.36283999998514
MR_118918_0,[C:1]1([C:2]2([O:8][H:10])[C:4]([H:11])([H:12])[O:6]2)([O:7][H:9])[C:3]([H:13])([H:14])[O:5]1>>[C:1]1([O:7][H:9])=[C:2]([O:8][H:10])[C:4]([H:11])([H:12])[O:6][C:3]([H:13])([H:14])[O:5]1,69.27349000002323
MR_249368_1,[C:1]([C:2]([N:5]([H:11])[H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([O:6][H:10])[O:7][H:9]>>[C:1]1([O:6][H:10])([O:7][H:9])[C@:4]([C:2]([N:5]([H:11])[H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[O:8]1,57.90507250001198
MR_100182_1,[C:1]([C:3]1=[N:7][C:6]1(/[C:5](=[N:2]/[N:4]([H:8])[H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([c:3]1[n:2]([N:4]([H:8])[H:9])[c:5]([H:10])[c:6]([H:11])[n:7]1)([H:12])([H:13])[H:14],44.5531274999793
MR_190099_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3](=[C:4](\[O:7][H:10])[H:12])[H:11])([O:5][H:8])[O:6][H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](\[C:4]([O:6][H:9])([O:7][H:10])[H:12])[H:11])[O:5][H:8],55.71760750000607
MR_11081_1,[C:1]1([H:10])([H:11])[C:8]([C:6]([C:2]([H:14])([H:18])[H:19])([C:5]([H:17])([H:24])[H:25])[H:22])([H:12])[C:9]1([C:7]([C:3]([H:15])([H:20])[H:21])=[C:4]([H:16])[H:23])[H:13]>>[C:1]([C:8](=[C:6]([C:2]([H:14])([H:18])[H:19])[C:5]([H:17])([H:24])[H:25])[H:12])([C:9](=[C:7]([C:3]([H:15])([H:20])[H:21])[C:4]([H:16])([H:22])[H:23])[H:13])([H:10])[H:11],33.69110250000929
MR_381668_1,[C:1]([N:6]([C:2]([H:14])([H:15])[H:16])[C:9](=[O:10])[H:11])([C:7]([C:3]([H:17])([H:18])[H:19])=[C:8]([C:4]([H:21])([H:22])[H:23])[C:5]([H:20])([H:24])[H:25])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:6]([C:2]([H:14])([H:15])[H:16])[C:7]1([C:3]([H:17])([H:18])[H:19])[C:8]([C:4]([H:21])([H:22])[H:23])([C:5]([H:20])([H:24])[H:25])[C:9](=[O:10])[H:11],68.83235749999557
MR_406997_1,[C:1]([N:3]([H:10])[H:11])([C:5]1([H:14])[C:2]2([C:4](=[O:9])[H:13])[C:6]1([H:15])[N:7]2[H:12])=[O:8]>>[C:1]([N:3]([H:10])[H:11])(/[C:5](=[C:6]([C:2](\[C:4](=[O:9])[H:13])=[N:7]\[H:12])/[H:15])[H:14])=[O:8],35.34519250004209
MR_641757_1,[C:1]([C:3]([C:2]([O:6][H:8])([H:14])[H:15])=[O:7])([N:4]([H:11])[H:12])([N:5]([H:10])[H:13])[H:9]>>[C:1]([C@@:2]([C:3](=[O:7])[H:15])([O:6][H:8])[H:14])([N:4]([H:11])[H:12])([N:5]([H:10])[H:13])[H:9],52.29710499997438
MR_85966_0,[C:1](/[C:4](=[C:3](/[N:2]([O:5][H:7])[H:9])[O:6][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:3]1([O:6][H:8])[N:2]([H:9])[O:5]1)([H:7])[H:10])([H:11])([H:12])[H:13],53.746629999952944
MR_456254_1,[C:1]1([C:4]([H:20])([H:21])[H:22])([N:7]([H:10])[H:11])[C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([N:8]([H:12])[H:13])[O:9]1>>[C:1]([C:4]([H:20])([H:21])[H:22])([C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])=[O:9])([N:7]([H:10])[H:11])[N:8]([H:12])[H:13],21.089647500007946
MR_347752_1,[C:1](=[C:2]([N:5]([H:12])[H:13])[C:6](=[C:7]([H:15])[H:16])[H:14])([N:3]([H:9])[H:10])[N:4]([H:8])[H:11]>>[C:1]1([N:3]([H:9])[H:10])([N:4]([H:8])[H:11])[C:2]([N:5]([H:12])[H:13])=[C:6]([H:14])[C:7]1([H:15])[H:16],47.2488675000217
MR_662993_1,[C@:1]([N:4]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])([O:8][H:10])([N:9]=[C:5]([N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[H:11]>>[C:1](\[O:8][H:10])(=[N:9]\[C:5]([N:4]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[H:11],60.64599249997599
MR_516851_0,[C:1](/[C:6](=[C:3](\[N:2]([N:4]([H:10])[H:11])/[C:5](=[N:8]\[H:12])[H:13])[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6](/[C:3](=[N:2]\[N:4]([H:10])[H:11])[O:7][H:9])(/[C:5](=[N:8]\[H:12])[H:13])[H:14])([H:15])([H:16])[H:17],69.441659999991
MR_97054_1,[C:1]([C:2]([C:3](=[O:6])[H:8])=[O:5])([C:4](=[O:7])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:2](=[O:5])[C:3]([H:8])([H:9])[O:6][C:4]1=[O:7],59.210899999996656
MR_46742_0,[C:1]1([H:8])([H:9])[N:4]([C:2]([H:10])([H:11])[H:12])[O:6][C:5]([C:3]([H:13])([H:14])[H:15])=[N:7]1>>[C:1]1([H:8])([H:9])[N:4]([C:2]([H:10])([H:11])[H:12])[N:7]1[C:5]([C:3]([H:13])([H:14])[H:15])=[O:6],44.6152500000008
MR_377069_0,[C:1]([C:4]([N:6]([H:11])[H:12])[C:7]([C:3]([N:5]([H:9])[H:10])[C:8]([C:2]([H:18])([H:19])[H:20])[H:14])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C@:4]1([N:6]([H:11])[H:12])[C:7]([H:13])=[C:3]([N:5]([H:9])[H:10])[C@@:8]1([C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17],34.559562500028136
MR_662220_1,[C:1]([N:3](/[C:4]([O:5][H:8])=[N:7]\[C:2]([H:13])([H:14])[H:15])[H:10])([O:6][H:9])([H:11])[H:12]>>[C:1]([O:6][H:9])([N:7]([C:2]([H:13])([H:14])[H:15])/[C:4](=[N:3]/[H:10])[O:5][H:8])([H:11])[H:12],68.93840500001318
